US08541411B2
b) 4-(2-methyl-3-(naphthalen-1-ylmethyl)-7-nitro-3H-benzo[d]imidazol-5-yl)morpholine
A mixture of 6-bromo-2-methyl-1-(naphthalen-1-ylmethyl)-4-nitro-1H-benzo[d]imidazole (4.63 g), morpholine (3.05 g), Pd2(dba)3 (1.05 g), Cs2CO3 (5.72 g) and X-Phos (1.09 g) in dioxane (100 mL) was degassed with nitrogen and then stirred at 80° C. overnight. The mixture was cooled to room temperature and the solvent was removed in-vacuo. The residue was then purified by silica gel chromatography eluted with EtOAc:Petrolium ether=1:1 to afford the desired product as a yellow solid (2.8 g, 60%). 1H NMR (300 MHz, DMSO-d6) δ ppm 2.46 (s, 3H), 3.12 (t, 4H, J=4.8 Hz). 3.70 (t, 4H, J=4.8 Hz), 6.09 (s, 2H), 6.31 (d, 1H, J=7.5 Hz), 7.34 (t, 1H, J=7.5 Hz), 7.53 (d, 1H, J=2.1 Hz), 7.62-7.70 (m, 3H), 7.86 (d, 1H, J=8.1 Hz), 8.01 (d, 1H, J=7.5 Hz), 8.23 (d, 1H, J=8.1 Hz); LC-MS: m/e=403 [M+1]+.

reactant | 6-bromo-2-methyl-1-(naphthalen-1-ylmethyl)-4-nitro-1H-benzo[d]imidazole | 4.63 g | BrC=1C=C(C2=C(N(C(=N2)C)CC2=CC=CC3=CC=CC=C23)C1)[N+](=O)[O-] | C19H14BrN3O2
reactant | morpholine | 3.05 g | N1CCOCC1 | C4H9NO
reactant | Cs2CO3 | 5.72 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | X-Phos | 1.09 g | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
solvent | dioxane | 100 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 1.05 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-(2-methyl-3-(naphthalen-1-ylmethyl)-7-nitro-3H-benzo[d]imidazol-5-yl)morpholine | 2.8 g, 60% | CC=1N(C2=C(N1)C(=CC(=C2)N2CCOCC2)[N+](=O)[O-])CC2=CC=CC1=CC=CC=C21 | C23H22N4O3
